US05756505
1-[4-(4-fluorobenzyloxy)-3-isobutylbenzoyl]-4-isobutylpiperazine
4-(4-fluorobenzyloxy)-3-isobutylbenzoic acid (16.5 g) was dissolved in a mixture of chloroform (150 ml) and triethylamine (15.3 ml). To this mixture was added diphenylphosphinic chloride (11.5 ml) while being cooled with ice. After being stirred for 40 minutes, the mixture, with 1-isobutylpiperazine (7.83 g) added thereto, was stirred for 1.5 hours at room temperature. This reaction mixture was washed with saturated sodium hydrogencarbonate solution and saturated brine successively, dried over sodium sulfate anhydride, and then concentrated under a vacuum. Thus obtained residue was purified by silica gel column chromatography (chloroform: methanol=50:1) and the resulting solid was recrystallized (from n-hexane), thereby yielding 19.6 g of the aimed compound.

reactant | 4-(4-fluorobenzyloxy)-3-isobutylbenzoic acid | 16.5 g | FC1=CC=C(COC2=C(C=C(C(=O)O)C=C2)CC(C)C)C=C1 | C18H19FO3
reactant | diphenylphosphinic chloride | 11.5 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | 1-isobutylpiperazine | 7.83 g | C(C(C)C)N1CCNCC1 | C8H18N2
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 15.3 ml | C(C)N(CC)CC | C6H15N
product | 1-[4-(4-fluorobenzyloxy)-3-isobutylbenzoyl]-4-isobutylpiperazine | 19.6 g | FC1=CC=C(COC2=C(C=C(C(=O)N3CCN(CC3)CC(C)C)C=C2)CC(C)C)C=C1 | C26H35FN2O2
